US05665718
59.3 g (0.3 mol) of 5-chloro-isatoic anhydride and 30.3 g (0.3 mol) of (S)-azetidine-2-carboxylic acid were suspended in 400 ml of N,N-dimethylformamide/acetic acid 5:1 and heated to 87°-90° in an oil bath under argon for 64 hrs. The solvent was removed in a vacuum and the residue was taken up in 500 ml of methanol, whereupon the mixture was stirred at room temperature for 30 min. The white, pure crystals were filtered off under suction. The solvent was removed in a vacuum and the semi-crystalline residue was recrystallized from 60 ml of methanol (hot filtration). The products were combined and dried in a vacuum. There were obtained 61.3 g (86%) of (S)-6-chloro-1,2,4,9,10,10a-hexahydro-azeto[2,1-c][1,4]benzodiazepine-4,10-dione of m.p. 229°-231° (dec.).

reactant | 5-chloro-isatoic anhydride | 0.3 mol, 59.3 g | ClC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4ClNO3
reactant | (S)-azetidine-2-carboxylic acid | 0.3 mol, 30.3 g | N1[C@@H](CC1)C(=O)O | C4H7NO2
solvent | N,N-dimethylformamide acetic acid | 400 ml | CN(C=O)C.C(C)(=O)O
product | (S)-6-chloro-1,2,4,9,10,10a-hexahydro-azeto[2,1-c][1,4]benzodiazepine-4,10-dione | 61.3 g, 86% | ClC=1C=CC2=C(C(N3[C@H](C(N2)=O)CC3)=O)C1 | C11H9ClN2O2
